US09427479B2
A solution of 4,4-dimethylcyclohexanone (30 g, 0.238 mol), hydroxylamine hydrochloride (32.8 g, 0.476 mol) and sodium acetate (39.0 g, 0.476 mol) in H2O/EtOH (720 mL, 5/1) was heated under reflux. The reaction was monitored by TLC and cooled to room temperature upon completion. It was diluted with dichloromethane (500 mL). The organic layer was separated, washed with brine (100 mL) and dried over Na2SO4. Solvent was removed under reduced pressure, and 4,4-Dimethylcyclohexanone oxime was obtained as colorless solid, which was used in the next step without further purification.

reactant | 4,4-dimethylcyclohexanone | 0.238 mol, 30 g | CC1(CCC(CC1)=O)C | C8H14O
reactant | hydroxylamine hydrochloride | 0.476 mol, 32.8 g | Cl.NO
reactant | sodium acetate | 0.476 mol, 39.0 g | C(C)(=O)[O-].[Na+]
solvent | H2O EtOH | 720 mL | O.CCO
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4,4-Dimethylcyclohexanone oxime | CC1(CCC(CC1)=NO)C | C8H15NO
